US03954865
To a solution of 5 g of 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one and 20 g of cyclopropylamine in 25 ml of hexamethylphosphoramide is added, with cooling, during 30 minutes, a solution of 1.7 ml of titanium tetrachloride in 10 ml of anhydrous benzene. After stirring at room temperature for 2 weeks, benzene (50 ml) and water (50 ml) are added, with cooling. The mixture is filtered, the layers of the filtrate are separated, and the aqueous phase is extracted with 50 ml of benzene. The combined aqueous phases are washed with 5% aqueous sodium bicarbonate solution (25ml) and water (3 × 25 ml) and dried with magnesium sulfate. The solvent is removed, and the residue is shortpath distilled at a bath temperature of 145°-150° (0.3 micron) to give N-cyclopropyl-10,11-dihydro-5H-dibenzo-[a,d]cyclohepten-5-imine as a solid. Nmr spectrum (in CDCl3): multiplets at τ 2.3-3.0 (8H) 6.6-7.2 (5H) and 8.2-9.4 (4H).

reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 5 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C15H12O
reactant | cyclopropylamine | 20 g | C1(CC1)N | C3H7N
reactant | water | 50 ml | O | H2O
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 1.7 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-cyclopropyl-10,11-dihydro-5H-dibenzo-[a,d]cyclohepten-5-imine | C1(CC1)N=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H17N
